US07820823B2
(3R)-3-(2-Fluoro-4-nitro-phenylamino)-pyrrolidine-1-carboxylic Acid Allyl Ester
A solution of 5.01 g of 3,4-difluoro nitrobenzene, 5.1 g (3R)-1-allyloxycarbonyl-3-amino pyrrolidine (30 mmol) and 6.27 ml of triethylamine (31.5 mmol) in 100 ml of ethyl acetate was stirred at reflux. The reaction was monitored by HPLC. The reaction was diluted with ethyl acetate, washed with water and brine, the org. layer dried over Mg sulfate, filtered and evaporated. The residue crystallized from an ether/hexane mixture.

reactant | 3,4-difluoro nitrobenzene | 5.01 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | (3R)-1-allyloxycarbonyl-3-amino pyrrolidine | 30 mmol, 5.1 g | C(C=C)OC(=O)N1C[C@@H](CC1)N | C8H14N2O2
reactant | triethylamine | 31.5 mmol, 6.27 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-3-(2-Fluoro-4-nitro-phenylamino)-pyrrolidine-1-carboxylic Acid Allyl Ester | C(C=C)OC(=O)N1C[C@@H](CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C14H16FN3O4
